US05008454
Synthesis of 1-bromo-3-[3-(octadecyloxy)propoxy]propane:
Employing 3-(octadecyloxy)propanol (5 g), 1,3-dibromopropane (9.2 g) and cetyltrimethylammonium chloride (0.97 g), a reaction and aftertreatment are conducted in the same manner as those in Reference Example 4 to obtain the above-titled compound (0.53 g).

reactant | 3-(octadecyloxy)propanol | 5 g | C(CCCCCCCCCCCCCCCCC)OCCCO | C21H44O2
reactant | 1,3-dibromopropane | 9.2 g | BrCCCBr | C3H6Br2
catalyst | cetyltrimethylammonium chloride | 0.97 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 1-bromo-3-[3-(octadecyloxy)propoxy]propane | 0.53 g | BrCCCOCCCOCCCCCCCCCCCCCCCCCC | C24H49BrO2
